US05554607
3-(4-Chloro-2-methylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one
The title compound was prepared by the procedure described in Example 1 using 9.18 g of 4-chloro-2-methylphenyl-isothiocyanate, 7.68 g of sarcosine ethyl ester hydrochloride, 12.0 g of triethyl amine, and 300 mL of chloroform. Crystallization from diethyl ether afforded the title compound (7.5 g) as an off-white solid, m.p. 113°-115° C. Anal. Calcd. for C11H11Cl N2O S: C, 51.87; H, 4.35; N,11.00. Found: C, 51.72; H, 4.17; N, 10.88. Mass spectrum (El, M.+) m/z 254/256.

reactant | 4-chloro-2-methylphenyl-isothiocyanate | 9.18 g | ClC1=CC(=C(C=C1)N=C=S)C | C8H6ClNS
reactant | sarcosine ethyl ester hydrochloride | 7.68 g | Cl.C(C)OC(CNC)=O
reactant | triethyl amine | 12.0 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-(4-Chloro-2-methylphenyl)-1-methyl-2-thioxo-imidazolidin-4-one | 7.5 g | ClC1=CC(=C(C=C1)N1C(N(CC1=O)C)=S)C | C11H11ClN2OS
